US09233968B1
1-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea
The compound of Example 4 was made by preparing 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine as in Example 20, followed by a procedure similar to Example 3 using 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene as the isocyanate (see also Schemes 1, 2, and 9).

reactant | 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine | NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)N | C14H11N5
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | isocyanate | [N-]=C=O
product | 1-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | NC=1N=C2N(N=C(C=C2)C#CC2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)C1 | C22H14F4N6O
